US04560685
7-Benzylamino-6-methoxy-4-(1-oxido-thiomorpholino)-2-piperazino-pteridine
A solution of 0.23 g (0.01 mol) of sodium in 10 ml of methanol was poured into a solution of 2.9 g (0.006 mol) of 7-benzylamino-6-chloro-4-(1-oxido-thiomorpholino)-2-piperazino-pteridine in 100 ml of dioxane. The resulting mixture was refluxed for 30 minutes and then the solvent was substantially distilled off in vacuo. The residue was taken up in about 70 ml of water, and the reaction product which precipitated was suction-filtered off, washed with water and dried at about 60° C.

reactant | sodium | 0.01 mol, 0.23 g | [Na] | Na
reactant | 7-benzylamino-6-chloro-4-(1-oxido-thiomorpholino)-2-piperazino-pteridine | 0.006 mol, 2.9 g | C(C1=CC=CC=C1)NC1=C(N=C2C(=NC(=NC2=N1)N1CCNCC1)N1CCS(CC1)=O)Cl | C21H25ClN8OS
reactant | methanol | 10 ml | CO | CH4O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 7-Benzylamino-6-methoxy-4-(1-oxido-thiomorpholino)-2-piperazino-pteridine | C(C1=CC=CC=C1)NC1=C(N=C2C(=NC(=NC2=N1)N1CCNCC1)N1CCS(CC1)=O)OC | C22H28N8O2S
